US09371321B2
Step A: tert-Butyl (S)-3-((5-(1-aminoethyl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-6-yl)(methyl)amino)azetidine-1-carboxylate
Into a 8 mL 2-necked round-bottom flask equipped for stirring and fitted with a septum cap were added tert-butyl 3-(methylamino)azetidine-1-carboxylate (0.220 g, 1.181 mmol), potassium tert-butoxide (0.132 g, 1.181 mmol) and 2-Me THF (2 mL). The reaction mixture was heated to 85° C. (S)-1-(6-Bromo-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethan-1-amine (0.100 g, 0.394 mmol) in 2-Me THF (2.000 mL) was added dropwise via syringe and the reaction mixture was stirred at 85° C. for 37 minutes. The reaction mixture was then cooled and partitioned between water and ethyl acetate. The organic layer was dried over anhydrous sodium sulfate, filtered, concentrated, and dried under vacuum. The crude product was purified by preparative HPLC (acid mode, 20-45% ACN/water gradient) to give the title compound as a light brown film (27.4 mg, 15%). ESI-MS m/z [M+H]+ calc'd for C19H29N5O2, 360. found 360.

reactant | tert-butyl 3-(methylamino)azetidine-1-carboxylate | 1.181 mmol, 0.220 g | CNC1CN(C1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | potassium tert-butoxide | 1.181 mmol, 0.132 g | CC(C)([O-])C.[K+]
reactant | (S)-1-(6-Bromo-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethan-1-amine | 0.394 mmol, 0.100 g | BrC=1C=C2C(=NC1[C@H](C)N)C=CN2C | C10H12BrN3
product | tert-Butyl (S)-3-((5-(1-aminoethyl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-6-yl)(methyl)amino)azetidine-1-carboxylate | N[C@@H](C)C1=C(C=C2C(=N1)C=CN2C)N(C2CN(C2)C(=O)OC(C)(C)C)C | C19H29N5O2
